US05103013
Isopropyl 2-(1,3-dithietan-2-ylidene)-2-[N-(2-thiazolyl)carbamoyl]acetate
The solution of isopropyl 2-(1,3-dithietan-2-ylidene)-2-(ethoxycarboxycarbonyl)acetate (10 g) and 2-aminothiazole (4.0 g) in methylene chloride (100 ml) was stirred at room temperature for 24 hrs. The reaction mixture was washed with 10% aqueous sodium hydroxide solution and water and then evaporated. The residue was chromatographed on silica gel column using methylene chloride as an eluent to afford the titled compound as a white solid (6.5 g, 63%).

reactant | isopropyl 2-(1,3-dithietan-2-ylidene)-2-(ethoxycarboxycarbonyl)acetate | 10 g | S1C(SC1)=C(C(=O)OC(C)C)C(=O)C(=O)OOCC | C11H14O6S2
reactant | 2-aminothiazole | 4.0 g | NC=1SC=CN1 | C3H4N2S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Isopropyl 2-(1,3-dithietan-2-ylidene)-2-[N-(2-thiazolyl)carbamoyl]acetate | 6.5 g, 63% | S1C(SC1)=C(C(=O)OC(C)C)C(NC=1SC=CN1)=O | C11H12N2O3S3
